US08217176B2
Production of 1-(pyridin-2-ylmethyl)-2H-3,1-benzooxazine-2,4(1H)-dione
To a solution of isatoic anhydride (25.4 g, 0.156 mol) in DMF (300 mL) were added 2-(chloromethyl)pyridine hydrochloride (28.1 g, 0.171 mol) and sodium hydride (66% in oil, 12.5 g, 0.34 mol) under ice-cooling. The obtained mixture was stirred at room temperature for 42 hr. Water (750 mL) was added to the reaction mixture and the mixture was ice-cooled. The precipitated solid was collected by filtration, and recrystallized from acetone-diisopropyl ether to give the title compound (13.4 g, 34%).

reactant | isatoic anhydride | 0.156 mol, 25.4 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 2-(chloromethyl)pyridine hydrochloride | 0.171 mol, 28.1 g | Cl.ClCC1=NC=CC=C1
reactant | sodium hydride | 0.34 mol, 12.5 g | [H-].[Na+]
reactant | Water | 750 mL | O | H2O
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 1-(pyridin-2-ylmethyl)-2H-3,1-benzooxazine-2,4(1H)-dione | 13.4 g, 34% | N1=C(C=CC=C1)CN1C(OC(C2=C1C=CC=C2)=O)=O | C14H10N2O3
